US06025370
In 14 ml of methylene chloride was dissolved 0.70 g of ethyl 4-bromo-2-fluoro-3-methyl-benzoylacetate, followed by adding thereto 0.29 g of acetic anhydride and 0.33 g of N,N-dimethylformamide dimethyl acetal, and the resulting mixture was stirred at room temperature for 2 hours and then distilled under reduced pressure to remove the solvent. The resulting residue was dissolved in 10 ml of ethanol, followed by adding thereto 0.16 g of cyclopropylamine. The resulting mixture was stirred at room temperature for 12 hours and the crystals precipitated were collected by filtration to obtain 0.72 g of colorless ethyl 2-(4-bromo-2-fluoro-3-methylbenzoyl)-3-cyclopropylaminoacrylate.

reactant | ethyl 4-bromo-2-fluoro-3-methyl-benzoylacetate | 0.70 g | BrC1=C(C(=C(C(=O)CC(=O)OCC)C=C1)F)C | C12H12BrFO3
reactant | acetic anhydride | 0.29 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | N,N-dimethylformamide dimethyl acetal | 0.33 g | COC(N(C)C)OC | C5H13NO2
solvent | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(4-bromo-2-fluoro-3-methylbenzoyl)-3-cyclopropylaminoacrylate | 0.72 g | BrC1=C(C(=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C1)F)C | C16H17BrFNO3
